US08183271B2
Diallyl 2-(4-cyanobenzyl)malonate
19.79 g (494 mmol) of sodium hydride are added in portions (caution: evolution of hydrogen) to a solution of 121.5 g (659 mmol) of diallyl malonate in 1.5 liters of dioxane at 0° C. The mixture is warmed to room temperature and then stirred at 40° C. for 1 hour. Subsequently, at 40° C., 50 g (0.329 mol) of 4-chloromethylbenzonitrile, dissolved in 500 ml of dioxane, are slowly added dropwise, and the reaction solution is then stirred at 110° C. overnight. After cooling to room temperature, the reaction mixture is added to 1200 ml of water. Care must be taken during this that the pH is <7 (where appropriate, a few ml of 1 M hydrochloric acid are metered in to about pH 2). The mixture is then extracted three times with ethyl acetate, and the combined organic phases are washed with saturated sodium chloride solution and dried over sodium sulfate. After filtration, the solvent is concentrated to dryness in vacuo. Excess diallyl malonate is then removed by high vacuum distillation (boiling point: 57° C.; 0.074 mbar). The distillation residue is purified by flash chromatography on silica gel (mobile phase: petroleum ether/ethyl acetate 20:1). 67 g (0.22 mol, 67% of theory) of a colorless solid are obtained.

reactant | sodium hydride | 494 mmol, 19.79 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | diallyl malonate | 659 mmol, 121.5 g | C(CC(=O)OCC=C)(=O)OCC=C | C9H12O4
reactant | 4-chloromethylbenzonitrile | 0.329 mol, 50 g | ClCC1=CC=C(C#N)C=C1 | C8H6ClN
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | dioxane | 1.5 liters | O1CCOCC1 | C4H8O2
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
solvent | water | 1200 ml | O | H2O
product | Diallyl 2-(4-cyanobenzyl)malonate | C(#N)C1=CC=C(CC(C(=O)OCC=C)C(=O)OCC=C)C=C1 | C17H17NO4
